US07592332B2
3-Nitro-5-tert-butyl-1H-pyridin-2-one (360 mg, 1.83 mmol) was dissolved in methanol/ethyl acetate (2:1, 3 mL) and placed in a Parr hydrogenation vessel. Pd (10% on carbon, 36 mg) was added and the reaction was placed under a hydrogen atmosphere (50 psi) and shaken at room temperature for 2 h. The solution was then filtered through diatomaceous earth and concentrated in vacuo. The residue was redissolved in diethyl ether and extracted (3×) with 1.0 M HCl. The pH of the combined aqueous layers was adjusted to 10 with NaHCO3 and extracted with methylene chloride. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to provide 3-amino-5-tert-butyl-1H-pyridin-2-one (195 mg, 64%) as a pale green solid: ESI MS m/z 166 [C9H14N2O+H]+.

reactant | 3-Nitro-5-tert-butyl-1H-pyridin-2-one | 1.83 mmol, 360 mg | [N+](=O)([O-])C=1C(NC=C(C1)C(C)(C)C)=O | C9H12N2O3
solvent | methanol ethyl acetate | 3 mL | CO.C(C)(=O)OCC
catalyst | Pd | 36 mg | [Pd] | Pd
product | 3-amino-5-tert-butyl-1H-pyridin-2-one | 195 mg, 64% | NC=1C(NC=C(C1)C(C)(C)C)=O | C9H14N2O
